US07786044B2
29. Preparation of 4-Amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methyl-pyridine-2-carboxylic acid methyl ester (Compound 27)
4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methylpyridine-2-carboxylic acid methyl ester (369 mg, 1.0 mmol) was dissolved in methanol (10 mL) and acetyl chloride (1.07 mL, 15 mmol) was added. The reaction mixture was stirred overnight at ambient temperature and concentrated under vacuum. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate; and the organic phase was dried and concentrated. Purification by flash chromatography on silica gel (dichloromethane/ethyl acetate gradient) followed by a second purification by flash chromatography (hexane/ethyl acetate gradient) yielded the title compound (292 mg, 88% yield) as a white solid, mp 122-125° C. 1H NMR (CDCl3) δ 7.65 (m, 1H), 7.26 (s, 1H), 7.1 (m, 1H), 4.35 (br s, 2H), 3.99 (s, 3H), 3.98 (d, 3H), 2.31 (s, 3H).

reactant | 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methylpyridine-2-carboxylic acid methyl ester | 1.0 mmol, 369 mg | COC(=O)C1=NC(=CC(=C1C)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C17H16ClFN2O4
reactant | acetyl chloride | 15 mmol, 1.07 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 10 mL | CO | CH4O
product | 4-Amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methyl-pyridine-2-carboxylic acid methyl ester | 292 mg, 88% yield | COC(=O)C1=NC(=CC(=C1C)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H14ClFN2O3
